US06521658B1
3,4,5-trimethoxyphenyl 6-methoxy-3-pyridinesulfonate
A solution of 2-methoxypyridine-5-sulfonylchloride (314 mg, 1.51 mmol) in dichloromethane (15 mL) was treated with triethylamine (0.63 mL) and 3,4,5-trimethoxyphenol (279 mg, 1.51 mmol), stirred for 18 hours at room temperature, diluted with ethyl acetate, washed three times with 1M Na2CO3, dried (MgSO4), filtered, and concentrated to provide 447 mg of the desired product.

reactant | 2-methoxypyridine-5-sulfonylchloride | 1.51 mmol, 314 mg | COC1=NC=C(C=C1)S(=O)(=O)Cl | C6H6ClNO3S
reactant | triethylamine | 0.63 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxyphenol | 1.51 mmol, 279 mg | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4,5-trimethoxyphenyl 6-methoxy-3-pyridinesulfonate | 447 mg | COC1=CC=C(C=N1)S(=O)(=O)OC1=CC(=C(C(=C1)OC)OC)OC | C15H17NO7S
